US07232821B2
3-{2-[5-bromo-2-(benzyloxy)-phenyl]-cyclopent-1-enyl}-benzoic acid
3-{2-[5-Bromo-2-(hydroxy)-phenyl]-cyclopent-1-enyl}-benzoic acid (0.04 g, 0.12 mmol), benzyl bromide (0.038 g, 0.22 moles), potassium hydroxide (˜0.15 g), in dimethyl sulphoxide (1.5 mL) were stirred at room temperature over 8 hrs under nitrogen. The reaction mixture was then quenched with ice/water (10/10 mL), stirred at room temperature for ˜1.5 hrs, acidified with 2N hydrochloric acid to pH˜3 and extracted with dichloromethane. The organic extract was then dried (magnesium sulphate) and concentrated down to an oil and was then chromatographed on Waters sep-pak cartridge (10 g) giving (0.028 g, 54%).

reactant | 3-{2-[5-Bromo-2-(hydroxy)-phenyl]-cyclopent-1-enyl}-benzoic acid | 0.12 mmol, 0.04 g | BrC=1C=CC(=C(C1)C1=C(CCC1)C=1C=C(C(=O)O)C=CC1)O | C18H15BrO3
reactant | benzyl bromide | 0.22 moles, 0.038 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium hydroxide | ˜0.15 g | [OH-].[K+]
solvent | dimethyl sulphoxide | 1.5 mL | CS(=O)C | C2H6OS
product | 3-{2-[5-bromo-2-(benzyloxy)-phenyl]-cyclopent-1-enyl}-benzoic acid | BrC=1C=CC(=C(C1)C1=C(CCC1)C=1C=C(C(=O)O)C=CC1)OCC1=CC=CC=C1 | C25H21BrO3
